US07067517B2
5-(3,4-Dichloro-phenoxy)-pyrimidin-2-ol
A solution of sodium ethoxide, prepared from sodium (0.95 g, 41.4 mmol), 2-(3,4-dichloro-phenoxy)-3-dimethylamino-propenal (5.38 g, 20.7 mmol) and urea (2.48 g, 41.4 mmol) in ethanol (25 ml) was heated at 60° C. for 4 hours. Water (1 ml) was added and heating was continued for an additional 2 hours. The solution was cooled to room temperature and neutralised with glacial acetic acid. Most of the solvent was removed by evaporation in vacuo. Water was added and the precipitate was isolated by suction, followed by drying in a vacuum oven, yielding the title compound (0.92 g, 17% yield) as a brown solid.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 41.4 mmol, 0.95 g | [Na] | Na
reactant | 2-(3,4-dichloro-phenoxy)-3-dimethylamino-propenal | 20.7 mmol, 5.38 g | ClC=1C=C(OC(C=O)=CN(C)C)C=CC1Cl | C11H11Cl2NO2
reactant | urea | 41.4 mmol, 2.48 g | NC(=O)N | CH4N2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | Water | 1 ml | O | H2O
product | 5-(3,4-Dichloro-phenoxy)-pyrimidin-2-ol | 0.92 g, 17% yield | ClC=1C=C(OC=2C=NC(=NC2)O)C=CC1Cl | C10H6Cl2N2O2
